US07368453B2
Synthesis of [(2S,3S)-3-Methyl-2-Pyrrolidinyl]Methanol Hydrochloride
The title compound was prepared from (3S)-3-methyl-L-proline, using the methods used to prepare ethyl(3S)-3-hydroxy-L-prolinate hydrochloride. 1H NMR (400 MHz, DMSO-D6) δ ppm 1.1 (d, J=6.8 Hz, 3 H) 1.2 (t, J=6.8 Hz, 3 H) 1.6 (m, 1 H) 2.1 (m, 1 H) 2.3 (m, 1 H) 3.2 (m, 2 H) 3.8 (m, 1 H) 4.2 (m, 2 H) 4.7 (m, 1 H) 9.0 (s, 1 H) 10.4 (s, 1 H).

reactant | (3S)-3-methyl-L-proline | C[C@@H]1[C@H](NCC1)C(=O)O | C6H11NO2
reactant | ethyl(3S)-3-hydroxy-L-prolinate hydrochloride | Cl.O[C@@H]1[C@H](NCC1)C(=O)OCC
product | [(2S,3S)-3-Methyl-2-Pyrrolidinyl]Methanol Hydrochloride | Cl.C[C@@H]1[C@H](NCC1)CO | InChI=1S/C6H13NO.ClH/c1-5-2-3-7-6(5)4-8;/h5-8H,2-4H2,1H3;1H/t5-,6+;/m0./s1
